US04011236
A suspension of 5.56 g. (0.02 mole) of 2-methylthiopseudourea sulfate, 4.0 g. (0.04 mole) triethylamine and 50 ml. of dimethylformamide is cooled to 0° C. and treated with a solution of 5.88 g. (0.04 mole) of 2-thenoyl chloride in 15 ml. of dimethylformamide. The reaction mixture is allowed to warm to room temperature, stirred for 2 hours and is then poured onto 500 g. of an ice-water mixture. The colorless solid product is separated by filtration and washed with water. This solid is recrystallized from ethanol to give 1,3-dithenoyl-2-methylthio-pseudourea, m.p. 166°-167° C.

reactant | 2-methylthiopseudourea sulfate | 0.02 mole | S(=O)(=O)(O)O.CSC(N)=N
reactant | triethylamine | 0.04 mole | C(C)N(CC)CC | C6H15N
reactant | 2-thenoyl chloride | 0.04 mole | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,3-dithenoyl-2-methylthio-pseudourea | C1(=CC=CS1)C(=O)NC(SC)=NC(C1=CC=CS1)=O | C12H10N2O2S3
